Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Ischemic rest pain of the right foot with failed catheter-based 
intervention.

 
Major Surgical or Invasive Procedure:
___ Right common femoral to anterior tibial bypass with 
nonreversed saphenous vein and angioscopy.

 
History of Present Illness:
This ___ lady has had ischemic rest
pain in her right foot. She was treated with an SFA and
popliteal intervention about 4 months ago which failed
rapidly. Her principal target vessel is her anterior tibial
artery and we advised her not to undergo another intervention
due to the rapidity with which it failed. Saphenous vein is
adequate caliber for bypass.

 
Past Medical History:
1. Sciatica with h/o laminectomy.  
2. DM1 for ___ years, on insulin pump, with gastroparesis  
3. Hypercholesterolemia  
4. h/o CP in ___, cardiac cath clean - sx's felt to be ?spasms. 
 
5. HTN  
6. Hiatal hernia  
7. s/p hysterectomy  
8. Hypothyroidism  
 
Social History:
___
Family History:
Mother MI ___
Father MI ___
 
Physical Exam:
PE:

AFVSS

NEURO:

PERRL / EOMI

MAE equally

Answers simple commands

Neg pronator drift

Sensation intact to ST

2 plus DTR

___

___:

NCAT 

Neg lesions nares, oral pharnyx, auditory

Supple / FAROM

neg lyphandopathy, supra clavicular nodes

LUNGS: CTA b/l

CARDIAC: RRR without murmers

ABDOMEN: Soft, NTTP, ND, pos BS, neg CVA tenderness

EXT:

rle - palp fem, pop, pt, dp

lle - palp fem, pop, pt, dp

 
Pertinent Results:
___ 04:12AM BLOOD 

WBC-8.7 RBC-2.47* Hgb-7.6* Hct-23.2* MCV-94 MCH-30.9 MCHC-33.0 
RDW-14.3 Plt ___

Pt transfused for HCT 23

___ 04:12AM BLOOD 

Plt ___

___ 04:12AM BLOOD 

Glucose-184* UreaN-21* Creat-1.3* Na-134 K-4.4 Cl-98 HCO3-30 
AnGap-10

___ 04:05AM BLOOD 

Calcium-8.1* Phos-3.1 Mg-2.0
 
Brief Hospital Course:
Presenting diagnosis  Ischemic rest pain of the right foot with 
failed catheter-based intervention.

Operative day: After consented patient underwent Right common 
femoral to anterior tibial bypass with nonreversed saphenous 
vein and angioscopy.

Post-operatively there were no complications.  Patient was kept 
on bedrest for a day and started on a regular diet.  Patients 
pain was controlled and her central line and foley catheter were 
removed.  

She did recieve blood product x 2. HCT stable on DC.

 
Medications on Admission:
rocaltrol .5, citalopram, plavix, restasis gtt, erythromycin, 
gabapentin 1600, insulin pump, levozyl, lorazepam, reglan, 
bactroban cream, protonix, simvastatin 40, asa 81, caltrate, vit 
b12, folic acid, mvi, lantus 15, oxycodone, oxycontin 
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
2. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
3. Gabapentin 400 mg Capsule Sig: Four (4) Capsule PO DAILY 
(Daily).  
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Oxycodone 40 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO DAILY (Daily).  
6. Cyclosporine 0.05 % Dropperette Sig: Two (2) Drop Ophthalmic 
BID (2 times a day) as needed for dry  eyes.  
7. White Petrolatum-Mineral Oil 42.5-56.8 % Ointment Sig: One 
(1) Appl Ophthalmic BID (2 times a day) as needed for dry eyes.  

8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
9. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.  
10. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
11. Oxycodone 10 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO HS (at bedtime).  
12. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
13. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for pain.  
14. Multivitamin     Tablet Sig: ___ Tablets PO DAILY (Daily).  
15. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QIDACHS 
(4 times a day (before meals and at bedtime)).  
16. Erythromycin 5 mg/g Ointment Sig: One (1)  Ophthalmic BID (2 
times a day).  
17. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
18. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
19. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
20. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for anxiety.  
21. Mupirocin Calcium 2 % Cream Sig: One (1) Appl Topical BID (2 
times a day).  
22. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
23. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
24. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
25. Polyvinyl Alcohol-Povidone 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic PRN (as needed) as needed for dry eyes.  
26. Insulin
Insulin  Pump SC (Self Administering Medication) 
27. Insulin
Fingerstick QACHS

Insulin SC Fixed Dose Orders 

Dinner 

Glargine      18  Units 

Insulin SC Sliding Scale 

Breakfast Lunch Dinner Bedtime 
Humalog 

Glucose Insulin Dose 
 
___      mg/dL 4 oz. Juice 
71-79     mg/dL 3   Units 3   Units 3   Units 0   Units 
80-119    mg/dL 4   Units 4   Units 4   Units 0   Units 
120-159   mg/dL 5   Units 5   Units 5   Units 0   Units 
160-199   mg/dL 6   Units 6   Units 6   Units 0   Units 
200-239   mg/dL 8   Units 8   Units 8   Units 3   Units 
240-279   mg/dL 9    Units 9    Units 9    Units 4   Units 
280-319   mg/dL 10   Units 10   Units 10   Units 5   Units 
320-359   mg/dL 12   Units 12   Units 12   Units 6   Units 
360-400   mg/dL 14   Units 14   Units 14   Units 6   Units 
> 400   mg/dL ___ M.D.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Ischemic rest pain in her right foot
Sciatica, DM I on insulin pump, gastroparesis, 
hypercholesterolemia, HTN, hiatal hernia, hypothyroidism  
 
Discharge Condition:
Stable
 
Discharge Instructions:
Division of Vascular and Endovascular Surgery

Lower Extremity Bypass Surgery Discharge Instructions

What to expect when you go home:
1. It is normal to feel tired, this will last for ___ weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!

2. It is normal to have swelling of the leg you were operated 
on:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated

3. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•No driving until post-op visit and you are no longer taking 
pain medications
•Unless you were told not to bear any weight on operative foot: 

•You should get up every day, get dressed and walk
•You should gradually increase your activity
•You may up and down stairs, go outside and/or ride in a car
•Increase your activities as you can tolerate- do not do too 
much right away!
•No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
•You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed
•Take all the medications you were taking before surgery, 
unless otherwise directed
•Take one full strength (325mg) enteric coated aspirin daily, 
unless otherwise directed 
•Call and schedule an appointment to be seen in 2 weeks for 
staple/suture removal

What to report to office:
•Redness that extends away from your incision
•A sudden increase in pain that is not controlled with pain 
medication
•A sudden change in the ability to move or use your leg or the 
ability to feel your leg
•Temperature greater than 100.5F for 24 hours
•Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions

 
Followup Instructions:
___